* ============================================================================
* 808 Mid Tom — Bridged-T Resonator (Behavioral State-Space Equivalent)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: Single bridged-T Sallen-Key resonator + inverting output
* buffer.  Same behavioral state-space approach as 808_kick.spice.
*
* PARAMETERS (from 808_mid_tom.pedal — pedalkernel-pro, private):
*   R1 = R2 = 270kΩ, C1 = C2 = 4.7nF
*   f0 = 1 / (2π·270k·4.7n) = 125.3 Hz
*   WHY: Authentic TR-808 mid-tom fundamental is ~120 Hz (Eddy Bergman
*   schematic; Florian Anwander hardware measurements).  After WDF
*   source loading from 100k bias divider, 125 Hz nominal shifts down
*   to land in the 120 Hz range.
*   r_crit = R1+R2+R1·(C1/C2) = 270k+270k+270k = 810kΩ
*   R_fb = 910kΩ  →  Q = 910 / (910−810) = 9.1
*   zeta = 1/(2·Q) = 0.0549
*   omega0 = 2π·125.3 = 787.2 rad/s
*   2·zeta·omega0 = 86.47
*
* STATE-SPACE MODEL:
*   dx/dt  = ω₀ · v
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)
*   y = x
*
* VERIFIED: f0 = 125.3 Hz (theory), Q = 9.1
* ============================================================================

* --- State variable: v_x (position / oscillator voltage) ---
Cx v_x 0 1

* G-source: dv_x/dt = omega0 * v_v
Gx_v 0 v_x v_v 0 787.2

* --- State variable: v_v (velocity, scaled by 1/omega0) ---
Cv v_v 0 1

* G-source: −omega0 * v_x  (restoring force)
Gv_x 0 v_v v_x 0 -787.2

* G-source: −2·zeta·omega0 * v_v  (damping)
Gv_v 0 v_v v_v 0 -86.47

* G-source: omega0 * trigger input
Gv_in 0 v_v v_in 0 787.2

* --- Output mapping ---
Bout v_out 0 V = v(v_x)
Rload_out v_out 0 100k
