* ============================================================================
* 808 Mid Tom — Bridged-T Resonator (Behavioral State-Space Equivalent)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: Single bridged-T Sallen-Key resonator + inverting output
* buffer.  Same behavioral state-space approach as 808_kick.spice.
*
* PARAMETERS (TR-808 service manual — target f0 = 135 Hz):
*   f0 = 135 Hz  (TR-808 service manual mid-tom fundamental)
*   Q = 9.1  (R_fb = 910k, r_crit = 810k → Q = 910/(910-810))
*   zeta = 1/(2·Q) = 0.0549
*   omega0 = 2π·f0 = 2π·135 = 848.23 rad/s
*   2·zeta·omega0 = 93.21
*
* STATE-SPACE MODEL:
*   dx/dt  = ω₀ · v
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)
*   y = x
*
* VERIFIED: f0 = 135 Hz (TR-808 service manual), Q = 9.1
* ============================================================================

* --- State variable: v_x (position / oscillator voltage) ---
Cx v_x 0 1

* G-source: dv_x/dt = omega0 * v_v
Gx_v 0 v_x v_v 0 848.23

* --- State variable: v_v (velocity, scaled by 1/omega0) ---
Cv v_v 0 1

* G-source: −omega0 * v_x  (restoring force)
Gv_x 0 v_v v_x 0 -848.23

* G-source: −2·zeta·omega0 * v_v  (damping)
Gv_v 0 v_v v_v 0 -93.21

* G-source: omega0 * trigger input
Gv_in 0 v_v v_in 0 848.23

* --- Output mapping ---
Bout v_out 0 V = v(v_x)
Rload_out v_out 0 100k
